US04760057
N-(1-Chloroethoxycarbonyl)-β-(3,4-dimethoxyphenyl)ethylamine
To a solution of 1.8 g of 3,4-dimethoxyphenethylamine in 50 ml of chloroform 2.2 g of proton sponge® was added. The reaction mixture was cooled in an ice bath. To the ice-cold solution was added with stirring 1.4 g of 1-chloroethyl chloroformate. The cooling bath was removed and the reaction mixture was kept stirred at room temperature for 72 hours. It was then washed with water, 3N HCl and water. After drying over sodium sulfate, the chloroform solution was evaporated to a thick oil weighing 2.1 g. NMR (CDCl3) δ1.75 (3H, d, J=7 Hz, CH3CH), 2.78 (2H, t, J=6 Hz, ArCH2), 3.4 (2H, broad t, NHCH2), 3.9 (6H, s, OMe), 4.9 (1H, broad NH) and 6.4-6.85 (CHCl and aromatic). IR (film) ν3350, 1722, 1512, 1260, 1240, 1138 cm-1.

reactant | 3,4-dimethoxyphenethylamine | 1.8 g | COC=1C=C(CCN)C=CC1OC | C10H15NO2
reactant | proton sponge | CN(C)C1=CC=CC2=C1C(=CC=C2)N(C)C | C14H18N2
reactant | 1-chloroethyl chloroformate | 1.4 g | ClC(=O)OC(C)Cl | C3H4Cl2O2
solvent | chloroform | 50 ml, 2.2 g | C(Cl)(Cl)Cl | CHCl3
product | N-(1-Chloroethoxycarbonyl)-β-(3,4-dimethoxyphenyl)ethylamine | ClC(C)OC(=O)NCCC1=CC(=C(C=C1)OC)OC | C13H18ClNO4
